US04966678
Preparation of di-n-butylbis-n-dodecylthiotin (21)
This compound was prepared from di-n-butyltin-oxide and 1 dodecanethiol by azeotropic removal of water using the method described in U.S. Pat. No. 2,648,650. All spectroscopic and analytical data were consistent with the proposed structure.

reactant | di-n-butyltin-oxide | C(CCC)[Sn](CCCC)=O
reactant | dodecanethiol | C(CCCCCCCCCCC)S | C12H26S
solvent | water | O | H2O
product | di-n-butylbis-n-dodecylthiotin | C(CCC)[Sn](SCCCCCCCCCCCC)(SCCCCCCCCCCCC)CCCC | InChI=1S/2C12H26S.2C4H9.Sn/c2*1-2-3-4-5-6-7-8-9-10-11-12-13;2*1-3-4-2;/h2*13H,2-12H2,1H3;2*1,3-4H2,2H3;/q;;;;+2/p-2
